US05216165
C) N,N-Diethyl-4-[(4-oxo-1-piperidinyl)methyl]benzamide
4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-ylmethyl)-N,N-diethylbenzamide (63.9 g, 192 mmol) is dissolved in 193 mL of tetrahydrofuran and treated with a solution of concentrated sulfuric acid (77 mL) in water (309 mL). The solution is allowed to stir for three days and then refluxed for 17 hours. It is neutralized with 2.5N NaOH and extracted with 400 mL, 200 mL and then 100 of methylene chloride. The pooled extracts are dried over Na2SO4 and concentrated in vacuo affording 58.74 g (193 mmol, 100% yield) of product as a yellow oil: IR (thin film) 3500, 2980, 2810, 1720, 1630 cm-1 ; 1H NMR (Me2SO-d6, 400 MHz) δ7.4 (d,J=8.1 Hz, 2H), 7.3 (d,J=8.2 Hz, 2H), 3-3.6 (m, 8H), 2.68 (t,J=6.1 Hz, 2H), 2.34 (t,J= 6.0 Hz, 2H), 1.1 (m, 6H).

reactant | 4-(1,4-Dioxa-8-azaspiro[4.5]dec-8-ylmethyl)-N,N-diethylbenzamide | 192 mmol, 63.9 g | O1CCOC12CCN(CC2)CC2=CC=C(C(=O)N(CC)CC)C=C2 | C19H28N2O3
reactant | sulfuric acid | 77 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | tetrahydrofuran | 193 mL | O1CCCC1 | C4H8O
solvent | water | 309 mL | O | H2O
product | N,N-Diethyl-4-[(4-oxo-1-piperidinyl)methyl]benzamide | 193 mmol, 58.74 g, 100% yield | C(C)N(C(C1=CC=C(C=C1)CN1CCC(CC1)=O)=O)CC | C17H24N2O2
